US08026237B2
Preparation OF 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-YL]-benzoic acid
To a solution of 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-yl]-benzoic acid methyl ester (0.7 g, 1.6 mmol) in MeOH/THF (8 mL: 16 mL) was added LiOH (0.275 g, 6.4 mmol). After stirring 14h at room temperature, the reaction mixture was concentrated in vacuo. The crude reaction mixture was re-dissolved in water and washed with EtOAc. The water layer was separated and then acidified with 1N HCl. The resulting suspension was extracted twice with EtOac. The combined extracts were dried (Na2SO4) and concentrated in vacuo to provide the title compound (0.67 g, 99%) as a white solid. 1H-NMR (DMSO-d6): δ 13.03 (1H, s), 9.81 (1H, s), 8.06 (2H, d, J=9.1), 8.02 (1H, d J=7.8), 7.87 (2H, d, J=8.6), 7.78 (1H, t, J=7.3). 7.68 (1H, t, J=7.8), 7.39 (1H, d, J=7.6), 6.65 (1H, s), 3.20 (3H, s), 2.23 (3H, s), 1.92 (3H, s); MS (ESI): 413 (MH+).

reactant | 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-yl]-benzoic acid methyl ester | 1.6 mmol, 0.7 g | COC(C1=C(C=CC=C1)N1C(=C(C=C1C)C(NC1=CC=C(C=C1)S(=O)(=O)C)=O)C)=O | C22H22N2O5S
reactant | LiOH | 6.4 mmol, 0.275 g | [Li+].[OH-]
solvent | MeOH THF | 8 mL | CO.C1CCOC1
solvent | water | O | H2O
product | 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-YL]-benzoic acid | 0.67 g, 99% | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C(=O)O)C=CC=C1)C | C21H20N2O5S
